US08309542B2
(c) (R)-6-Bromo-3-methyl-3,4-dihydro-2H-isoquinolin-1-one
480 mg (1.7 mmol) (R)-2-(2-amino-propyl)-4-bromo-benzonitrile (as hydrochloride salt) are dissolved in 5 ml 10 N sodium hydroxide solution and stirred for 16 hours at 80° C. Then the reaction mixture is acidified with hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac. The residue is purified by RP-HPLC.

reactant | (R)-2-(2-amino-propyl)-4-bromo-benzonitrile | 1.7 mmol, 480 mg | N[C@@H](CC1=C(C#N)C=CC(=C1)Br)C | C10H11BrN2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 10 N, 5 ml | [OH-].[Na+]
product | (R)-6-Bromo-3-methyl-3,4-dihydro-2H-isoquinolin-1-one | BrC=1C=C2C[C@H](NC(C2=CC1)=O)C | C10H10BrNO
